* Created by KLayout
*** My special header ***

* cell tr_1um_SiCA03
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_SiCA03 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 -90.5,-318.1
X$2 P10 P9 P7 P11 P6 VSS opamp_cat_nekonekone
* cell instance $12 r0 *1 -204.3,454.3
X$12 P1 P2 \$5 P4 P15 P14 P13 VSS 1bitCPU_ryosuke_takagai
.ENDS tr_1um_SiCA03

* cell opamp_cat_nekonekone
* pin out
* pin vinn
* pin vinp
* pin vdd
* pin ib
* pin vss
.SUBCKT opamp_cat_nekonekone out vinn vinp vdd ib vss
* device instance $1 r0 *1 -174,-246.5 PMOS
XM$1 vdd vdd \$280 vdd PMOS L=5u W=100u AS=182.5p AD=150p PS=139.6u PD=112u
* device instance $2 r0 *1 -166,-246.5 PMOS
XM$2 \$280 vinn \$183 vdd PMOS L=5u W=300u AS=450p AD=450p PS=336u PD=336u
* device instance $4 r0 *1 -150,-246.5 PMOS
XM$4 \$280 vinp \$2 vdd PMOS L=5u W=300u AS=450p AD=450p PS=336u PD=336u
* device instance $29 r0 *1 50,-246.5 PMOS
XM$29 vdd ib out vdd PMOS L=5u W=800u AS=1200p AD=1200p PS=896u PD=896u
* device instance $43 r0 *1 162,-246.5 PMOS
XM$43 vdd vdd vdd vdd PMOS L=5u W=100u AS=182.5p AD=215p PS=139.6u PD=167.2u
* device instance $45 r0 *1 -166,-206.5 PMOS
XM$45 vdd ib \$280 vdd PMOS L=5u W=400u AS=600p AD=600p PS=448u PD=448u
* device instance $49 r0 *1 -134,-206.5 PMOS
XM$49 vdd vdd \$53 vdd PMOS L=5u W=50u AS=75p AD=75p PS=56u PD=56u
* device instance $50 r0 *1 -126,-206.5 PMOS
XM$50 \$53 ib vdd vdd PMOS L=5u W=50u AS=75p AD=75p PS=56u PD=56u
* device instance $55 r0 *1 -86,-206.5 PMOS
XM$55 vdd ib ib vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $56 r0 *1 -78,-206.5 PMOS
XM$56 ib vdd vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $87 r0 *1 -174,-354 NMOS
XM$87 vss vss vss vss NMOS L=5u W=600u AS=965p AD=965p PS=727.2u PD=727.2u
* device instance $100 r0 *1 -70,-354 NMOS
XM$100 vss \$18 \$18 vss NMOS L=5u W=50u AS=75p AD=75p PS=56u PD=56u
* device instance $101 r0 *1 -62,-354 NMOS
XM$101 \$18 \$53 \$53 vss NMOS L=5u W=50u AS=75p AD=75p PS=56u PD=56u
* device instance $105 r0 *1 -30,-354 NMOS
XM$105 vss vss \$2 vss NMOS L=5u W=50u AS=75p AD=75p PS=56u PD=56u
* device instance $106 r0 *1 -22,-354 NMOS
XM$106 \$2 \$53 \$128 vss NMOS L=5u W=100u AS=150p AD=150p PS=112u PD=112u
* device instance $111 r0 *1 18,-354 NMOS
XM$111 vss vss out vss NMOS L=5u W=50u AS=75p AD=75p PS=56u PD=56u
* device instance $112 r0 *1 26,-354 NMOS
XM$112 out \$2 vss vss NMOS L=5u W=850u AS=1275p AD=1275p PS=952u PD=952u
* device instance $135 r0 *1 -134,-314 NMOS
XM$135 vss \$183 \$183 vss NMOS L=5u W=200u AS=300p AD=300p PS=224u PD=224u
* device instance $137 r0 *1 -118,-314 NMOS
XM$137 vss \$183 \$2 vss NMOS L=5u W=200u AS=300p AD=300p PS=224u PD=224u
* device instance $173 r90 *1 247.4,-324.6 F_CSIO
XC$173 \$128 out vss F_CSIO C=4.9536e-12 A=8256p P=364u X=86 Y=96 m=4
.ENDS opamp_cat_nekonekone

* cell 1bitCPU_ryosuke_takagai
* pin 
* pin 
* pin VDD
* pin 
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT 1bitCPU_ryosuke_takagai \$14 \$15 VDD \$25 \$35 \$37 \$39 VSS
* cell instance $1 r0 *1 387.1,0
X$1 VDD \$1 \$42 \$23 VSS AND2_X1
* cell instance $4 r0 *1 233.1,0
X$4 \$25 \$22 \$2 \$1 \$14 VDD VSS DFFR
* cell instance $9 r0 *1 -3.4,0
X$9 \$25 \$20 \$2 \$I103 \$15 VDD VSS DFFR
* cell instance $10 r0 *1 409.1,0
X$10 VDD \$3 \$10 \$4 VSS AND2_X1
* cell instance $11 r0 *1 337.6,0
X$11 VDD \$39 \$3 VSS INV_X1
* cell instance $12 r0 *1 370.6,0
X$12 VDD \$3 \$42 VSS INV_X1
* cell instance $14 r0 *1 172.6,0
X$14 VDD \$3 \$31 VSS INV_X1
* cell instance $16 r0 *1 189.1,0
X$16 VDD \$3 \$15 \$33 VSS AND2_X1
* cell instance $24 r0 *1 431.1,0
X$24 VDD \$4 \$23 \$22 VSS OR2
* cell instance $27 r0 *1 101.1,0
X$27 \$15 \$9 VDD \$30 VSS NAND2
* cell instance $28 r0 *1 84.6,0
X$28 \$15 \$10 VDD \$9 VSS NAND2
* cell instance $31 r0 *1 117.6,0
X$31 \$9 \$10 VDD \$11 VSS NAND2
* cell instance $32 r0 *1 354.1,0
X$32 VDD \$37 \$10 VSS INV_X1
* cell instance $41 r0 *1 134.1,0
X$41 \$30 \$11 VDD \$19 VSS NAND2
* cell instance $42 r0 *1 321.1,0
X$42 VDD \$14 \$35 VSS INV_X1
* cell instance $48 r0 *1 150.6,0
X$48 VDD \$19 \$31 \$16 VSS AND2_X1
* cell instance $51 r0 *1 211.1,0
X$51 VDD \$16 \$33 \$20 VSS OR2
.ENDS 1bitCPU_ryosuke_takagai

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell OR2
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT OR2 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 \$4 A \$7 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$7 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 gnd A \$4 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$4 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS OR2

* cell AND2_X1
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT AND2_X1 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$4 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$4 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 \$4 A \$7 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$7 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS AND2_X1

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1

* cell DFFR
* pin CK
* pin D
* pin RST
* pin QB
* pin Q
* pin vdd
* pin gnd
.SUBCKT DFFR CK D RST QB Q vdd gnd
* device instance $1 r0 *1 75.7,44.8 PMOS
XM$1 QB \$11 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 79.7,44.8 PMOS
XM$2 vdd QB Q vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 50.9,44.8 PMOS
XM$3 vdd \$8 \$22 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $4 r0 *1 53.3,44.8 PMOS
XM$4 \$22 \$5 \$10 vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $5 r0 *1 57.3,44.8 PMOS
XM$5 \$10 \$4 \$23 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $6 r0 *1 59.7,44.8 PMOS
XM$6 \$23 \$11 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $7 r0 *1 63.7,44.8 PMOS
XM$7 vdd \$10 \$24 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $8 r0 *1 67.7,44.8 PMOS
XM$8 \$24 RST \$11 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $9 r0 *1 6.1,44.8 PMOS
XM$9 \$2 CK vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $10 r0 *1 10.1,44.8 PMOS
XM$10 vdd \$2 \$4 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $11 r0 *1 18.1,44.8 PMOS
XM$11 \$5 \$4 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $12 r0 *1 22.1,44.8 PMOS
XM$12 vdd D \$19 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $13 r0 *1 24.5,44.8 PMOS
XM$13 \$19 \$4 \$7 vdd PMOS L=1u W=10.2u AS=7.14p AD=28.56p PS=11.6u PD=26u
* device instance $14 r0 *1 32.5,44.8 PMOS
XM$14 \$7 \$5 \$20 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $15 r0 *1 34.9,44.8 PMOS
XM$15 \$20 \$8 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $16 r0 *1 38.9,44.8 PMOS
XM$16 vdd \$7 \$21 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $17 r0 *1 42.9,44.8 PMOS
XM$17 \$21 RST \$8 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $18 r0 *1 50.9,6.8 NMOS
XM$18 gnd \$8 \$16 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $19 r0 *1 53.3,6.8 NMOS
XM$19 \$16 \$4 \$10 gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $20 r0 *1 57.3,6.8 NMOS
XM$20 \$10 \$5 \$17 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $21 r0 *1 59.7,6.8 NMOS
XM$21 \$17 \$11 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $22 r0 *1 63.7,6.8 NMOS
XM$22 gnd \$10 \$11 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $23 r0 *1 67.7,6.8 NMOS
XM$23 \$11 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $24 r0 *1 6.1,6.8 NMOS
XM$24 \$2 CK gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $25 r0 *1 10.1,6.8 NMOS
XM$25 gnd \$2 \$4 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $26 r0 *1 75.7,6.8 NMOS
XM$26 QB \$11 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $27 r0 *1 79.7,6.8 NMOS
XM$27 gnd QB Q gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $28 r0 *1 18.1,6.8 NMOS
XM$28 \$5 \$4 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $29 r0 *1 22.1,6.8 NMOS
XM$29 gnd D \$14 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $30 r0 *1 24.5,6.8 NMOS
XM$30 \$14 \$5 \$7 gnd NMOS L=1u W=3.4u AS=2.38p AD=9.52p PS=4.8u PD=12.4u
* device instance $31 r0 *1 32.5,6.8 NMOS
XM$31 \$7 \$4 \$15 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $32 r0 *1 34.9,6.8 NMOS
XM$32 \$15 \$8 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $33 r0 *1 38.9,6.8 NMOS
XM$33 gnd \$7 \$8 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $34 r0 *1 42.9,6.8 NMOS
XM$34 \$8 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DFFR

* cell NAND2
* pin A
* pin B
* pin vdd
* pin Y
* pin gnd
.SUBCKT NAND2 A B vdd Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 Y B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 6.1,6.8 NMOS
XM$3 gnd A \$5 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r0 *1 10.1,6.8 NMOS
XM$4 \$5 B Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS NAND2

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
